US07288537B2
A solution of phosgene (11.6 mmol) in toluene (6 ml) is diluted with dichloromethane (15 ml) and cooled to 0° C. To this is added a solution of (3,5-Dimethoxy-phenyl)-methyl-amine (1.67 g, 10 mmol) and triethylamine (1.78 ml, 14.0 mmol) in dichloromethane (5 ml) slowly over 30 minutes, and the reaction mixture allowed to warm to ambient temperature with stirring over 2 hours. After stirring at ambient temperature for a further 2 hours, the reaction mixture is partitioned between ether and 1M hydrochloric acid solution. The ether phase is washed with brine, dried over magnesium sulphate and evaporated to afford (3,5-Dimethoxy-phenyl)methyl-carbamoyl chloride as a white solid.

reactant | phosgene | 11.6 mmol | C(=O)(Cl)Cl | CCl2O
reactant | (3,5-Dimethoxy-phenyl)-methyl-amine | 10 mmol, 1.67 g | COC=1C=C(C=C(C1)OC)NC | C9H13NO2
reactant | triethylamine | 14.0 mmol, 1.78 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3,5-Dimethoxy-phenyl)methyl-carbamoyl chloride | COC=1C=C(C=C(C1)OC)CNC(=O)Cl | C10H12ClNO3
